Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope  
 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male with history of HLD, GERD who presents 
following a syncopal episode.  
 
 He reports that he has chronic lower back pain that was worse 
yesterday morning. He states that he got out of bed and knelt 
down to pray to help with the pain. On getting up from praying, 
he felt lightheaded and fell forward, striking his right 
shoulder on the ground as he fell. He denies loss of 
consciousness. According to his wife, he had some slurred speech 
immediately after the fall, but this is now resolved. He also 
had diaphoresis. He denies any weakness or numbness in his 
extremities. He denies any chest pain, dyspnea, or palpitations 
prior to or after the event. He has had multiple syncopal 
episodes over the past several months.  
 
 In the ED initial vitals were: 97.8, HR 83, BP 155/83, RR 16, 
100% RA  
 
 EKG: HR 75 SR narrow QRS J point elevation V2-V5  
 He had slurred speech tjay resolved immediately after LOC event 
that was felt to be c/w with syncope rather than stroke.  
 
 Labs/studies notable for:  
 - TTE: Mild symmetric left ventricular hypertrophy with heavily 
trabeculated apex and normal regional and low normal global 
systolic function. No valvular pathology or pathologic flow 
identified.  
 He had two negative troponins, wnl Chem-7 CBC and lfts. He had 
negative gleno-humeral shoulder X-ray save for degenerative 
changes, negative Ct spine and Ct head.  
 
 Patient was given: Tylenol, Ibuprofen, and home meds  
 
 Vitals on transfer: 98.0 73 163/76 17 99% RA  
 Decision for admission to cards was made for cynope workup as 
At___ cardiology was paged and attending recommended admission 
for cardiac MRI and workup of possible ventricular dysrhtymia.  
 On arrival to floor patient reports that he has had colicky 
right lower abdominal;/thigh pain that was diagnosed as a muscle 
sprain. He reports Tylenol gives him relief but reports 
significant rebound pain when it wears off. He reports he got up 
from his bed and was walking to a dressor when he felt his pain 
came back on. He then felt lightheaded, dropped to his knees, 
then got up, felt himself blacking out, and hit his shoulder on 
his dressor falling down. He then remembers waking up and coming 
to hospital. He reports he has fainted before in the past in the 
context of gardening in the heat. He denies chest pain or SOB or 
fevers or chills. He reports the lower abd/thigh pain as worse 
when lifting his legs but also colicky at rest radiating to his 
groin. He denies dysuria.  
 
 REVIEW OF SYSTEMS:  
 Positive per HPI.  
 10 point ROS reviewed and otherwise negative  

 
Past Medical History:
 Gastritis  
 Macular degeneration  
 Hypercholesterolemia  
 Diverticulosis  
 Colonic adenoma  
 BPH  
 
Social History:
___
Family History:
 Brother - ___  
 Father - Cancer  
 Mother - Cancer, ___  
 
Physical Exam:
PHYSICAL EXAMINATION: 98.0 73 163/76 17 99% RA  
 GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
 HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
 NECK: Supple. JVP of 8 cm.  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Normal S1, S2. ___ systolic LUSB 
murmur. No thrills or lifts.  
 LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly. Tendernes to palpation of right lower anterior 
iliac spine.  
 EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema. Tendernes of palpation right shoulder.  
 SKIN: No significant skin lesions or rashes.  
 PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
ADMISSION LABS:
___ 01:00PM URINE  HOURS-RANDOM
___ 01:00PM URINE  UHOLD-HOLD
___ 01:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 12:57PM   cTropnT-<0.01
___ 07:45AM   ___ PTT-27.2 ___
___ 07:33AM   GLUCOSE-98 UREA N-7 CREAT-0.8 SODIUM-138 
POTASSIUM-3.5 CHLORIDE-100 TOTAL CO2-28 ANION GAP-14
___ 07:33AM   estGFR-Using this
___ 07:33AM   ALT(SGPT)-21 AST(SGOT)-22 ALK PHOS-77 TOT 
BILI-0.9
___ 07:33AM   LIPASE-22
___ 07:33AM   ALT(SGPT)-21 AST(SGOT)-22 ALK PHOS-77 TOT 
BILI-0.9
___ 07:33AM   LIPASE-22
___ 07:33AM   cTropnT-<0.01
___ 07:33AM   ALBUMIN-4.1
___ 07:33AM   WBC-5.7 RBC-4.39* HGB-14.5 HCT-41.2 MCV-94 
MCH-33.0* MCHC-35.2 RDW-11.6 RDWSD-40.1
___ 07:33AM   NEUTS-63.0 ___ MONOS-5.3 EOS-2.5 
BASOS-0.2 IM ___ AbsNeut-3.58 AbsLymp-1.62 AbsMono-0.30 
AbsEos-0.14 AbsBaso-0.01
___ 07:33AM   PLT COUNT-178

PERTINENT LABS:
___ 11:10AM BLOOD WBC-6.7 RBC-4.54* Hgb-15.1 Hct-42.7 
MCV-94 MCH-33.3* MCHC-35.4 RDW-11.7 RDWSD-40.1 Plt ___
___ 11:10AM BLOOD Glucose-74 UreaN-10 Creat-0.8 Na-141 
K-3.9 Cl-101 HCO3-28 AnGap-16
___ 12:57PM BLOOD cTropnT-<0.01
___ 07:33AM BLOOD cTropnT-<0.01

IMAGING:
CT head ___:
1. There is no evidence of acute intracranial process or 
hemorrhage. 
CT c-spine ___:
1. No evidence of traumatic malalignment or acute cervical spine 
fracture. 
2. Mild multilevel degenerative changes throughout the cervical 
spine 
Gleno-humeral shoulder ___:
Degenerative changes without fracture or dislocation. 

TTE ___:
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. Regional left ventricular 
wall motion is normal. Overall left ventricular systolic 
function is low normal. Quantitative (3D) LVEF = 53 %. The apex 
is heavily trabeculated. There is no left ventricular outflow 
obstruction at rest or with Valsalva. There is no ventricular 
septal defect. Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. The estimated pulmonary 
artery systolic pressure is high normal. There is no pericardial 
effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
heavily trabeculated apex and normal regional and low normal 
global systolic function.No valvular pathology or pathologic 
flow identified.

Compared with the prior study (images reviewed) of ___, 
the findings are similar.

 
Brief Hospital Course:
ASSESSMENT/PLAN  
 ___ M Patient with a history of GERD and HPL and BPH presenting 
with syncope after significant pain from ongoing muscle sprain.

 #Syncope: Low suspicion cardiac origin. Patient has fainted in 
past, and ECHO and EKG in ED reassuring with X2 negative 
troponins. Orthostatics were negative. This incident most likely 
vasovagal following pain from right lower hip, however echo is 
with evidence of trabeculation that could be consistent with 
compaction causing arrhythmia. Decision was made to discharge 
with cardiology follow up, loop monitoring, possible cardiac 
MRI. 

 # Right flank pain: DDx includes muscle sprain, right hip 
osteoarthritis, or kidney stones. Most likely component of right 
hip osteroarthritis contributing given pain on palpation of 
right anterior iliac spine. However, patients description of 
clokciy pain worrisome for kidney stones (though no suprapubic 
or CVA tenderness, UA negative for blood.) Discharged with plan 
for CT urogram, hip Xray as indicated. 

 # Right shoulder pain: No fracture. Secondary to fall and OSA.

 #Hypertension: to 160's SBP during admission. Started on 
amlodipine.

Transitional issues:
[] please set up patient for heart rhythm event monitor upon 
discharge.
[] Started on amlodipine 2.5 mg daily for hypertension while 
inpatient. Uptitrate as tolerated.
[] Recommend consideration of cardiac MRI as an outpatient to 
evaluate for structural cause of syncope. He has other family 
members who have had syncope raising question of an inherited 
condition.
[] please follow up right hip/groin pain. Likely represents 
osteoarthritis.    

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Tamsulosin 0.4 mg PO QHS 
4. Sucralfate 1 gm PO QID 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Aspirin 81 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Lidocaine 5% Ointment 1 Appl TP ONCE Duration: 1 Dose 
RX *lidocaine 5 % dime sized amount twice a day Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Omeprazole 40 mg PO DAILY  
7.  Simvastatin 20 mg PO QPM  
8.  Sucralfate 1 gm PO QID  
9.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
syncope

SECONDARY DIAGNOSES:
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___:

You were admitted to ___ after you passed out. 

While you were here, we monitored your heart rate on telemetry 
and saw no arrhythmias. We also got an ultrasound of the heart 
that did not show any reason that you passed out. You may have 
passed out from pain and didn't have any other episodes while 
you were here. 

When you leave please continue to take all of your medications 
as prescribed.  We started a new medication called amlodipine 
which is for high blood pressure.

It was a pleasure to care for you,
Your ___ Team
 
Followup Instructions:
___